* Z:\mnt\design.r\spice\examples\8714.asc
R1 N008 N009 100K
C1 N003 N002 34µ
XU1 N012 N014 N017 N009 N016 IN N001 IN N010 N006 N004 N008 IN 0 N005 N007 N013 N011 MP_01 0 LT8714
L1 IN N003 10µ
L2 OUT N002 10µ
R2 N005 0 2.5m
R3 IN N001 6m
M§Q1 N003 N004 N005 N005 BSC093N04LS
M§Q2 N002 N006 N001 N001 Si4401DY
C2 N016 0 47n
C3 N017 0 10n
C4 N014 0 100p
C5 N015 0 10n
R4 N014 N015 4.75K
R5 N011 0 178K
R6 N007 0 10K
R7 IN N007 51.1K
C6 N008 0 2.2µ
C7 OUT 0 200µ
C8 IN N010 2.2µ
R8 OUT N012 73.2K
V1 IN 0 12
V2 N013 0 PWL(0 0 10u 0 50u 0.1 3m 0.1 4m 1)
Rload OUT 0 1
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 5m startup
K1 L1 L2 .985
* SS Cap 10nF for faster simulation
.lib LT8714.sub
.backanno
.end
